US07435837B2
Treatment of 2-allyl-6-bromo-3-fluorophenol (9.01 g, 0.039 mol) with 3-chloroperoxybenzoic acid (77%, 13.46 g, 0.06 mol) followed by potassium carbonate (13.82 g, 0.10 mol) generally according to the reaction procedure described for Intermediate 9 gave 6.71 g (70%) of (±)-(7-bromo-4-fluoro-2,3-dihydro-1-benzofuran-2-yl)methanol as a white solid. Rf=0.20 (silica, ethyl acetate:hexanes 1:4); mp 40-43° C.; Anal. calcd. for C9H8BrFO2.0.2H2O: C, 43.13; H, 3.38. Found: C, 42.94; H, 3.15.

reactant | 2-allyl-6-bromo-3-fluorophenol | 0.039 mol, 9.01 g | C(C=C)C1=C(C(=CC=C1F)Br)O | C9H8BrFO
reactant | 3-chloroperoxybenzoic acid | 0.06 mol, 13.46 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | potassium carbonate | 0.10 mol, 13.82 g | C([O-])([O-])=O.[K+].[K+]
product | (±)-(7-bromo-4-fluoro-2,3-dihydro-1-benzofuran-2-yl)methanol | 6.71 g, 70% | BrC1=CC=C(C=2CC(OC21)CO)F | C9H8BrFO2
